US04097578
A suspension of 10 g of 1-(3'-trifluoromethyl-4'-nitrophenyl)-4,4-dimethyl-5-imino-imidazoline-2-one, 35 ml of 22° Be aqueous hydrochloric acid and 35 ml of water was refluxed for an hour, cooled to 20° C and poured into water. The mixture was vacuum filtered and the recovered precipitate was washed and dried to obtain 9.5 g of 1-(3'-trifluoromethyl-4'-nitrophenyl)-4,4-dimethyl-imidazoline-2,5-dione melting at 149° C. A microanalytical sample after crystallization from ethanol melted at 149° C.

reactant | 1-(3'-trifluoromethyl-4'-nitrophenyl)-4,4-dimethyl-5-imino-imidazoline-2-one | 10 g | FC(C=1C=C(C=CC1[N+](=O)[O-])N1C(NC(C1=N)(C)C)=O)(F)F | C12H11F3N4O3
reactant | water | O | H2O
reactant | water | 35 ml | O | H2O
product | 1-(3'-trifluoromethyl-4'-nitrophenyl)-4,4-dimethyl-imidazoline-2,5-dione | 9.5 g | FC(C=1C=C(C=CC1[N+](=O)[O-])N1C(NC(C1=O)(C)C)=O)(F)F | C12H10F3N3O4
